US04410534
methyl 3-p-methoxybenzoyl-5,6,7,8-tetrahydropyrrolo-[1,2-a]pyridine-8-carboxylate
methyl 3-m-bromobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate, and p0 methyl 3-p-bromobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate; and

reactant | methyl 3-m-bromobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | BrC=1C=C(C(=O)C2=CC=C3N2CCCC3C(=O)OC)C=CC1 | C17H16BrNO3
reactant | methyl 3-p-bromobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | BrC1=CC=C(C(=O)C2=CC=C3N2CCCC3C(=O)OC)C=C1 | C17H16BrNO3
product | methyl 3-p-methoxybenzoyl-5,6,7,8-tetrahydropyrrolo-[1,2-a]pyridine-8-carboxylate | COC1=CC=C(C(=O)C2=CC=C3N2CCCC3C(=O)OC)C=C1 | C18H19NO4
